US04608079
2-Amino-2,3-dimethylbutyramide (2.1 g, 0.016 mol) is added to a stirred suspension of furo[2,3-b]pyridine-5,6-dicarboxylic acid anhydride (3.0 g, 0.016 mol) in tetrahydrofuran (7.5 mL) and the mixture allowed to stir at room temperature for 16 hours. The reaction mixture is then stirred at 60° C. for one hour, cooled to room temperature, ether added, and the solid filtered off and dried to give 5 g of 6-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]furo[2,3-b]pyridine-5-carboxylic acid mp 192°-196° C. (dec).

reactant | 2-Amino-2,3-dimethylbutyramide | 0.016 mol, 2.1 g | NC(C(=O)N)(C(C)C)C | C6H14N2O
reactant | furo[2,3-b]pyridine-5,6-dicarboxylic acid anhydride | 0.016 mol, 3.0 g | O1C=CC=2C1=NC1=C(C2)C(=O)OC1=O | C9H3NO4
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
product | 6-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]furo[2,3-b]pyridine-5-carboxylic acid | 5 g | C(N)(=O)C(C(C)C)(C)NC(=O)C1=C(C=C2C(=N1)OC=C2)C(=O)O | C15H17N3O5
